US06225311B1
A solution of 0.764 g (1.41 mmol) of methyl4-{[4-({6-[(tert-butoxycarbonyl)amino]-2-hexynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholinecarboxylate and 3.77 g (28.2 mmol) of lithium iodide in 30 mL of ethyl acetate was heated to reflux for 18h. The resulting reaction was acidified, washed with water, an aqueous solution of Na2S2O3 , brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 0.5% methanol/dichloromethane to provide 0.417 g (56%) of 4-{[4-({6-[(tert-butoxycarbonyl)amino]-2-hexynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylic acid as a white solid. Electrospray Mass Spec: 527.2(M+H)+

reactant | methyl4-{[4-({6-[(tert-butoxycarbonyl)amino]-2-hexynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholinecarboxylate | 1.41 mmol, 0.764 g | COC(=O)C1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CCCCNC(=O)OC(C)(C)C | C25H36N2O7S2
reactant | lithium iodide | 28.2 mmol, 3.77 g | [I-].[Li+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[4-({6-[(tert-butoxycarbonyl)amino]-2-hexynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylic acid | 0.417 g, 56% | C(C)(C)(C)OC(=O)NCCCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1C(C(SCC1)(C)C)C(=O)O | C24H34N2O7S2
